US06362341B1
Synthesis of N-(Toluene-4-sulfonyl)-L-prolyl-L-phenylalanine N-Methoxyamide
N-(Toluene-4-sulfonyl)-L-prolyl-L-phenylalanine was coupled to O-methylhydroxylamine hydrochloride using the mixed anhydride procedure (as described in Greenstein, J. P. and Milton Wenitz, “Chemistry of the Amino Acids,” volume 2, pp. 978-979, Robert E. Krieger Publishing Co., Malabar, Fla. (1961)) to give the title compound as an oil.

reactant | N-(Toluene-4-sulfonyl)-L-prolyl-L-phenylalanine | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)CCC1)C | C21H24N2O5S
reactant | O-methylhydroxylamine hydrochloride | Cl.CON
product | N-(Toluene-4-sulfonyl)-L-prolyl-L-phenylalanine N-Methoxyamide | CONC([C@@H](NC([C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)=O)CC1=CC=CC=C1)=O | C22H27N3O5S
